US07018988B2
(2S,4EZ)-1-benzoyl-N-benzyl-4-(chloromethylene)-N-methyl-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid, benzoyl chloride, and N-benzyl-N-methylamine the title compound was obtained in 62% purity by LC/MS. MS(ESI+): m/z=369.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CCl)C(=O)O | C11H16ClNO4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-benzyl-N-methylamine | C(C1=CC=CC=C1)NC | C8H11N
product | (2S,4EZ)-1-benzoyl-N-benzyl-4-(chloromethylene)-N-methyl-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)(=O)N1[C@@H](CC(C1)=CCl)C(=O)N(C)CC1=CC=CC=C1 | C21H21ClN2O2
